US06500863B1
c) N-isopropyl-3-amino-6-chloro-2-hydroxybenzenesulfonamide
Following the general hydrogenation procedure outlined in example 15, N-isopropyl-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide (0.7 g, 2.38 mmol) was reduced with hydrogen and Pd/C (0.7 g) to form the desired product (0.62 g, 98 %). EI-MS m/z 263.5 (M-H)−.

reactant | N-isopropyl-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | 2.38 mmol, 0.7 g | C(C)(C)NS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C9H11ClN2O5S
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 0.7 g | [Pd] | Pd
product | N-isopropyl-3-amino-6-chloro-2-hydroxybenzenesulfonamide | 0.62 g, 98 % | C(C)(C)NS(=O)(=O)C1=C(C(=CC=C1Cl)N)O | C9H13ClN2O3S
